US07402581B2
3-Cyano-N-[2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-1-naphthamide (1.5 g, 4.03 mmol) was dissolved in a mixture of acetone (30 mL), tert-butanol (15 mL) and water (7.5 mL) and stirred at room temperature during addition of OsO4 (0.40 mL of 2.5% in tert-butanol, 0.04 mmol). 4-Methylmorpholine N-oxide (2.08 g, 17.8 mmol) was added and the mixture was stirred at room temperature overnight. A saturated aqueous solution of sodium bisulfite (15 mL) was added and the mixture stirred for 5 min and then concentrated. The residue was diluted with water (100 mL) and then extracted thrice with CH2Cl2. The combined organic solutions were washed with brine and the solvent removed by evaporation. The residue was dissolved in a mixture of THF (21 mL) and water (7 mL) whereupon sodium periodate (0.95 g, 4.43 mmol) was added. The solution was stirred at room temperature overnight and then diluted with water (150 mL) and brine (75 mL). The mixture was extracted thrice with ethyl acetate and the combined organic solutions were washed with water and then with brine. The solvent was removed by evaporation and the residue flash chromatographed on silica gel (ethyl acetate-heptane, 7:3). There was obtained 1.43 g (95%) of 3-cyano-N-[2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-1-naphthamide as a colourless oil. 1H NMR (400 MHz, CDCl3): 2.4-4.4 (cm, 8H), 6.8-8.0 (cm, 9H), 8.2 (s, 1H), 9.8 (s, 1H).

reactant | 3-Cyano-N-[2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-1-naphthamide | 4.03 mmol, 1.5 g | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)CC(CC=C)C1=CC=C(C=C1)F | C24H21FN2O
reactant | 4-Methylmorpholine N-oxide | 17.8 mmol, 2.08 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite | 15 mL | S([O-])(O)=O.[Na+]
reactant | sodium periodate | 4.43 mmol, 0.95 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | tert-butanol | 15 mL | C(C)(C)(C)O | C4H10O
solvent | water | 7.5 mL | O | H2O
solvent | THF | 21 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | brine | 75 mL | [Cl-].[Na+].O
catalyst | OsO4 | 0.04 mmol, 0.40 mL | O=[Os](=O)(=O)=O
product | 3-cyano-N-[2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-1-naphthamide | 1.43 g, 95% | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)CC(CC=O)C1=CC=C(C=C1)F | C23H19FN2O2
